* C:\Users\assis\Documents\trabalho-eletronica-I\simulação\Draft2.asc
S1 N005 N004 RST 0 SW2
I1 N005 0 45n
Rsh N005 0 5G
C1 N005 0 70p
V1 N004 0 3.3
V3 SEL 0 PULSE(0 3 2.74m 0 0 1.5m 5m)
V2 RST 0 PULSE(0 3 0 0 0 1m 5m)
XU1 N001 N005 N002 opamp Aol=100K GBW=10Meg
R4 0 N001 9.9k
R5 N002 N001 5.1k
S2 out N002 SEL 0 SW2
.tran 0 20m 0 10u
.model SW2 SW(Ron=0.1m Roff=5Meg Vt=2.99 Vh=0)
.model SW1 SW(Ron=0.1m Roff=5Meg Vt=2.99 Vh=0)
.lib opamp.txt
.lib opamp.sub
.backanno
.end
